* C:\Users\joa-m\InformesTC\TP3\EJ2\LTSPICE\gyrator_Highpass.asc
Rg N001 HP {mc(100,tola)}
R§Zg N003 0 {mc(510K,tolb)}
C1 N003 HP {mc(680pf,tolb)}
R1 N002 IN {mc(620,tola)}
C2 HP N002 {mc(470nf,tolb)}
V1 IN 0 SINE(0 1 1K) AC 1
V2 0 -VCC 15
V3 +VCC 0 15
XU1 N003 N001 +VCC -VCC N001 TL084 TL084
.ac dec 100 100 1Meg
.inc "C:\Users\joa-m\InformesTC\TP3\EJ2\TL084\TL084.301"
.param tola 0.05
.param tolb 0.01
.step param run 1 100 1
.backanno
.end
